US04315009
To a solution of 2-guanidino-4-(3-aminomethylphenyl)thiazole (0.5 g.) in warm ethanol (10 ml.) was added dimethyl (cyanoimido)dithiocarbonate (0.3 g.). The mixture was stirred for 1 hour during which time a precipitate gradually formed. This precipitate was filtered off to give 2-guanidino-4-[3-(3-cyano-2-methylisothioureidomethyl)phenyl]thiazole.

reactant | 2-guanidino-4-(3-aminomethylphenyl)thiazole | 0.5 g | N(C(=N)N)C=1SC=C(N1)C1=CC(=CC=C1)CN | C11H13N5S
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-guanidino-4-[3-(3-cyano-2-methylisothioureidomethyl)phenyl]thiazole | N(C(=N)N)C=1SC=C(N1)C1=CC(=CC=C1)CNC(SC)=NC#N | C14H15N7S2
